US05366972
e) N-(2-Chloro-6-methyl-4-trifluoromethyl-3-pyridinyl)-2-ethylamino-3-pyridinecarboxamide
Ethylamine (0.4 g) was added to a suspension of 1.3 g of 2-chloro-N-(2-chloro-6-methyl-4-trifluoromethyl-3-pyridinyl)-3-pyridinecarboxamide in 5 ml of xylene, and the resulting mixture heated in a pressure tube for 30 min. at 160° C. The cooled mixture was diluted with ethyl acetate, washed, dried, and concentrated. Column chromatography over silica gel (ethyl acetate/hexane, 1:1) gave 0.5 g of the title compound.

reactant | Ethylamine | 0.4 g | C(C)N | C2H7N
reactant | 2-chloro-N-(2-chloro-6-methyl-4-trifluoromethyl-3-pyridinyl)-3-pyridinecarboxamide | 1.3 g | ClC1=NC=CC=C1C(=O)NC=1C(=NC(=CC1C(F)(F)F)C)Cl | C13H8Cl2F3N3O
solvent | xylene | 5 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2-Chloro-6-methyl-4-trifluoromethyl-3-pyridinyl)-2-ethylamino-3-pyridinecarboxamide | 0.5 g | ClC1=NC(=CC(=C1NC(=O)C=1C(=NC=CC1)NCC)C(F)(F)F)C | C15H14ClF3N4O
